US07709468B2
Step E: 3-{4-[2-(4-Fluorophenyl)-8-methylimidazo[1,2-a]pyrazin-3-yl]-pyrimidin-2-ylamino}-2,2-dimethylpropan-1-ol
To a mixture of 2-(4-fluorophenyl)-3-(2-methanesulfonylpyrimidin-4-yl)-8-methylimidazo[1,2-a]pyrazine (1.50 g, 391 mmol) in ACN (30 mL) was added 3-amino-2,2-dimethyl-1-propanol (Lancaster, 2.0 g, 20 mmol). The reaction mixture was heated to about 80° C. After about 1.5 h, the reaction was cooled to ambient temperature and concentrated under reduced pressure. The resulting crude material was purified by silica gel chromatography with DCM/MeOH/NH4OH (step-wise gradient, 990:9:1 then 980:18:2) to give an oil after concentration. The oil was dissolved in a minimum amount of DCM and heptane was added until a white precipitate formed. The suspension was concentrated under reduced pressure. The resulting solid was triturated with heptane and filtered to give the title compound (1.36 g, 86%): LC/MS (Table 1, Method g) Rt=2.41 min; MS m/z: 407.2 (M+H)+.

reactant | 2-(4-fluorophenyl)-3-(2-methanesulfonylpyrimidin-4-yl)-8-methylimidazo[1,2-a]pyrazine | 391 mmol, 1.50 g | FC1=CC=C(C=C1)C=1N=C2N(C=CN=C2C)C1C1=NC(=NC=C1)S(=O)(=O)C | C18H14FN5O2S
reactant | 3-amino-2,2-dimethyl-1-propanol | 20 mmol, 2.0 g | NCC(CO)(C)C | C5H13NO
solvent | ACN | 30 mL | C(C)#N | C2H3N
product | 3-{4-[2-(4-Fluorophenyl)-8-methylimidazo[1,2-a]pyrazin-3-yl]-pyrimidin-2-ylamino}-2,2-dimethylpropan-1-ol | 1.36 g, 86% | FC1=CC=C(C=C1)C=1N=C2N(C=CN=C2C)C1C1=NC(=NC=C1)NCC(CO)(C)C | C22H23FN6O
